US07485634B2
1-Benzyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
The title compound was prepared in a manner similar to that described in Example 2A by using 1-benzyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester and 4-fluorobenzoyl chloride; 1H NMR (CDCl3) δ 10.58 (1H, s), 8.07 (1H, s), 7.62-7.66 (2H, m), 7.36 (1H, d), 7.13-7.23 (9H, m), 6.99 (1H, t), 5.25 (1H, dd), 4.26 (2H, m), 3.94 (1H, d), 2.99 (1H, dd), 2.83 (1H, dd), 1.22 (3H, t); MS (ESI): 469 (MH+).

reactant | 1-benzyl-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNCC(C2=C1NC=1C=CC=CC21)CC2=CC=CC=C2 | C22H22N2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 1-Benzyl-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)CC2=CC=CC=C2)C(C2=CC=C(C=C2)F)=O | C29H25FN2O3
